US04886810
In the same manner as described in Example 2 (1), ethyl 1-cyclopropyl-5-ethoxycarbonylamino-6,7,8-trifluoro1,4-dihydro-4-oxoquinoline-3-carboxylate was allowed to react with 3-acetylamino-3-methylpyrrolidine to give ethyl 7-(3-acetylamino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl5-ethoxycarbonylamino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate.

reactant | ethyl 1-cyclopropyl-5-ethoxycarbonylamino-6,7,8-trifluoro1,4-dihydro-4-oxoquinoline-3-carboxylate | C1(CC1)N1C=C(C(C2=C(C(=C(C(=C12)F)F)F)NC(=O)OCC)=O)C(=O)OCC | C18H17F3N2O5
reactant | 3-acetylamino-3-methylpyrrolidine | C(C)(=O)NC1(CNCC1)C | C7H14N2O
product | ethyl 7-(3-acetylamino-3-methyl-1-pyrrolidinyl)-1-cyclopropyl5-ethoxycarbonylamino-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylate | C(C)(=O)NC1(CN(CC1)C1=C(C(=C2C(C(=CN(C2=C1F)C1CC1)C(=O)OCC)=O)NC(=O)OCC)F)C | C25H30F2N4O6
